US09447030B2
To a solution of N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide (0.5 g, 1.59 mmol) in toluene (25 mL) were added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.60 g, 2.39 mmol, 1.5 equiv.), potassium acetate (0.46 g, 4.78 mmol, 3.0 equiv.) and Pd(PPh3)4 (0.19 g, 0.16 mmol, 0.1 equiv.). The mixture was heated to 110° C. After vigorously stirring for four hours, the solution was diluted with water, filtered through celite and washed with ethyl acetate. The organic layers were dried over Mg2SO4 and concentrated. The residue was purified by flash column by eluting ethyl aceate and hexane to allow N-(2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidine-1-carboxamide (0.64 g, 40% yield).

reactant | N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide | 1.59 mmol, 0.5 g | NC1=C(C=C(C=C1)Br)NC(=O)N1CCCC1 | C11H14BrN3O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.39 mmol, 0.60 g, 1.5 equiv. | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 4.78 mmol, 0.46 g, 3.0 equiv. | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.16 mmol, 0.19 g, 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidine-1-carboxamide | 0.64 g, 40% yield | [N+](=O)([O-])C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)N1CCCC1 | C17H24BN3O5
